US07732448B2
0.4 g of 4,6-dichloro-5-fluoropyrimidine and 0.61 g of 2-ethylhexahydro-1H-azepine were mixed and left for 1 hour at room temperature. The reaction mixture was subjected to silica gel column chromatography to obtain 0.6 g of 1-(6-chloro-5-fluoropyrimidin-4-yl)-2-ethylhexahydro-1H-azepine.

reactant | 4,6-dichloro-5-fluoropyrimidine | 0.4 g | ClC1=NC=NC(=C1F)Cl | C4HCl2FN2
reactant | 2-ethylhexahydro-1H-azepine | 0.61 g | C(C)C1NCCCCC1 | C8H17N
product | 1-(6-chloro-5-fluoropyrimidin-4-yl)-2-ethylhexahydro-1H-azepine | 0.6 g | ClC1=C(C(=NC=N1)N1C(CCCCC1)CC)F | C12H17ClFN3
